US05210209
(a) Preparation of 1,2-Diaminobenzimidazole (8).
Hydroxylamine O-sulphonic acid (tech. 23.25 g, 205 mmol) was added to a stirred solution of 2-aminobenzimidazole (25 g, 187.5 mmol) dissolved in water (600 ml) containing potassium hydroxide (24.6 g, 438 mmol) at 23° C. After a few moments a white solid began to precipitate. The mixture was stirred for 30 mins and the product collected by filtration, washed with water and dried in air at ambient temperature, 10.75 g. On standing overnight a second crop, 5.8 g was obtained. The total yield of product was 16.55 g, 60%, mp. 252°-254° C., (lit. 255°-259° C.). Spectroscopic analysis was consistent with the product but indicated a small amount of the starting material was also present. This was used without further purification (note 1).

reactant | Hydroxylamine O-sulphonic acid | 205 mmol, 23.25 g | NOS(=O)(=O)O | H3NO4S
reactant | 2-aminobenzimidazole | 187.5 mmol, 25 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | potassium hydroxide | 438 mmol, 24.6 g | [OH-].[K+]
solvent | water | 600 ml | O | H2O
product | 1,2-Diaminobenzimidazole | NN1C(=NC2=C1C=CC=C2)N | C7H8N4
